US07122666B2
(2S,8aS)-2-Methylsulfonyl-1,2,3,5,6,7,8,8a-octahydroindolizin-7-one
4.6 ml (9.23 mmol) of a 2N aqueous sulfuric acid solution and 3 ml of an aqueous solution of sodium tungstate dihydrate (101 mg, 0.31 mmol) were added to a solution of 1.14 g (6.15 mmol) of (2S,8aS)-2-methylthio-1,2,3,5,6,7,8,8a-octahydroindolizin-7-one [obtained as described in Preparative Example 12′ above] in 15 ml of methanol, and 1.35 ml (12.3 mmol) of a 30% aqueous solution of hydrogen peroxide were then added dropwise at 55° C. to the resulting mixture. The mixture was then stirred for 1 hour at the same temperature, at the end of which time 30 ml of a saturated aqueous solution of sodium hydrogencarbonate were added to it before extracting with methylene chloride. The organic extract was washed with water, dried over anhydrous magnesium sulfate and then concentrated by evaporation under reduced pressure. The resulting residue was purified by chromatography on an alumina column using ethyl acetate as the eluant to afford 945 mg (yield: 71%) of the title compound as a yellow oil.

reactant | sulfuric acid | 2N | S(O)(O)(=O)=O | H2O4S
reactant | (2S,8aS)-2-methylthio-1,2,3,5,6,7,8,8a-octahydroindolizin-7-one | 6.15 mmol, 1.14 g | CS[C@H]1C[C@@H]2CC(CCN2C1)=O | C9H15NOS
reactant | hydrogen peroxide | OO | H2O2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | methanol | 15 ml | CO | CH4O
catalyst | sodium tungstate dihydrate | 0.31 mmol, 101 mg | O.O.[O-][W](=O)(=O)[O-].[Na+].[Na+]
product | (2S,8aS)-2-Methylsulfonyl-1,2,3,5,6,7,8,8a-octahydroindolizin-7-one | 945 mg, yield: 71% | CS(=O)(=O)[C@H]1C[C@@H]2CC(CCN2C1)=O | C9H15NO3S
